US08124628B2
Step A: Preparation of pyrimidin-2-ylmethyl methanesulfonate (i-2a)
Methanesulfonyl chloride (4.40 mL, 57.1 mmol) was added to a stirred solution of 2-hydroxymethylpyrimidine (6.28 g, 57.1 mmol) and triethylamine (9.50 mL, 68.5 mmol) in DCM (250 mL) at 0° C. After approximately 20 min, the reaction mixture was poured into water, the organic layer was separated and the aqueous phase was re-extracted twice with DCM. The combined organic extracts were washed with water, brine, dried (sodium sulfate), and concentrated in vacuo to afford the title compound i-2a. 1HNMR (500 MHz, CDCl3): δ 8.81 (d, 2H, J=4.8 Hz), 7.32 (t, 1H, J=4.9 Hz), 5.46 (s, 2H), 3.24 (s, 3H).

reactant | Methanesulfonyl chloride | 57.1 mmol, 4.40 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-hydroxymethylpyrimidine | 57.1 mmol, 6.28 g | OCC1=NC=CC=N1 | C5H6N2O
reactant | triethylamine | 68.5 mmol, 9.50 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | pyrimidin-2-ylmethyl methanesulfonate | CS(=O)(=O)OCC1=NC=CC=N1 | C6H8N2O3S
